US06008243
According to the procedure described in Example 7(a), N-[1(S)-(1H-imidazol-2-yl)-3-methylbutyl]-3(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamic acid benzyl ester was hydrogenolyzed in EtOH:THF (1:1) to yield in 81% yield N-[1(S)-(1H-imidazol-2-yl)-3-methylbutyl]-3(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamic acid formate salt as a yellow amorphous solid. 1H NMR (DMSO-d6): δ 12.30 (bs, 1H), 8.65 (d, 1H, J=8.1 Hz), 8.59 (d, 2H, J=4.4 Hz), 8.13 (s, 1H), 7.75 (d, 2H, J=8.5 Hz), 7.71 (d, 2H, J=4.4 Hz), 7.60 (d, 2H, J=8.5 Hz), 7.34 (s, 1H), 6.91-6.83 (m, 3H), 6.44 (s, 1H), 5.08 (t, 1H, J=7.5 Hz), 4.97 (dd, 1H, J=8.1, 16.2 Hz), 3.10 (dd, 1H, J=8.1, 16.6 Hz), 2.90 (dd, 1H, J=7.2, 16.7 Hz), 1.68 (t, 2H, J=7.2 Hz), 1.52-1.45 (m, 1H), 0.86 (d, 3H, J=7.0 Hz), 0.83 (d, 3H, J=6.6 Hz). Anal. Calculated for C27H29N5O3.HCO2H.0.5 EtOAc: C, 64.15; H, 6.28; N, 12.47. Found: C, 64.21, H, 6.40; N, 12.60.

reactant | N-[1(S)-(1H-imidazol-2-yl)-3-methylbutyl]-3(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](CC(C)C)C=1NC=CN1)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=NC=C1)=O | C34H35N5O3
solvent | EtOH THF | CCO.C1CCOC1
product | N-[1(S)-(1H-imidazol-2-yl)-3-methylbutyl]-3(R)-[3-[4-(pyridin-4-yl)phenyl]-1H-pyrrol-1-yl]succinamic acid formate salt | 81% yield | C(=O)O.N1C(=NC=C1)[C@H](CC(C)C)NC([C@@H](CC(=O)O)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=NC=C1)=O | InChI=1S/C27H29N5O3.CH2O2/c1-18(2)15-23(26-29-12-13-30-26)31-27(35)24(16-25(33)34)32-14-9-22(17-32)20-5-3-19(4-6-20)21-7-10-28-11-8-21;2-1-3/h3-14,17-18,23-24H,15-16H2,1-2H3,(H,29,30)(H,31,35)(H,33,34);1H,(H,2,3)/t23-,24+;/m0./s1
